US07786141B2
2,3-Dimethyl-pyrazine 1-oxide (25 g, 0.2 mol) was dissolved in POCl3 (200 mL) under cooling. The mixture was gradually heated to reflux and stirred for 2 hours. After cooling, the reaction mixture was poured onto ice, basified to pH 8 with a saturated KOH solution under cooling and extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated. The residue was purified by column (P.E./EtOAc 100:1-60:1) to obtain 5-chloro-2,3-dimethylpyrazine. 1HNMR (CDCl3, 300 MHz) δ 8.31 (s, 1H), 2.53 (s, 6H). MS (ESI) m/e (M+H+) 143.2.

reactant | 2,3-Dimethyl-pyrazine 1-oxide | 0.2 mol, 25 g | CC1=[N+](C=CN=C1C)[O-] | C6H8N2O
reactant | KOH | [OH-].[K+]
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-2,3-dimethylpyrazine | ClC=1N=C(C(=NC1)C)C | C6H7ClN2
